US07498436B2
N1-{(1S,2R)-2-hydroxy-1-(4-hydroxybenzyl)-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N3,N3-dipropylisopthalamide (X)
A mixture of N1-{(1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N3,N3-dipropylisophthalamide (140 mg, 0.215 mmol) and palladium on carbon (10%, 140 mg) in absolute glacial acetic acid (5 mL) is shaken under an atmosphere of hydrogen at 35 psi for 5 hours The resulting mixture is filtered through diatomaceous earth and washed with methanol. The combined filtrates are concentrated under reduced pressure. The concentrate is purified by flash column chromatography (silica; methylene chloride/methanol/ammonium hydroxide gradient from 97/3/0.05 to 93/7/0.05) to give the title compound, IR (KEBr) 2962, 2931, 1611, 1594 and 1263 cm−1, ESI-MS (m/z) [M+H]+=562.

reactant | N1-{(1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N3,N3-dipropylisophthalamide | 0.215 mmol, 140 mg | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)OC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C)=O)C=C1 | C40H49N3O5
catalyst | palladium on carbon | 140 mg | [Pd] | Pd
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N1-{(1S,2R)-2-hydroxy-1-(4-hydroxybenzyl)-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N3,N3-dipropylisopthalamide | O[C@@H]([C@H](CC1=CC=C(C=C1)O)NC(C1=CC(C(=O)N(CCC)CCC)=CC(=C1)C)=O)CNCC1=CC(=CC=C1)OC | C33H43N3O5
